US08053454B2
4-Chloro-N-(5-chloro-2-(1H-tetrazol-5-yl)phenyl)benzamide
The title compound was prepared essentially according to the method of Example 4, but using 5-Chloro-2-(1H-tetrazol-5-yl)aniline (1.0 mmol) and 4-chlorobenzoyl chloride to yield the desired product (126.3 mg, 37%). 1H NMR (400 MHz, d6-DMSO): δ 13.62 (s, 1H), 8.87 (s, 1H), 8.22 (m, 3H), 7.72 (s, 2H), 7.25 (s, 1H). MS (EI) for C14H9Cl2N5O: 334.165 (M+H).

reactant | 5-Chloro-2-(1H-tetrazol-5-yl)aniline | 1.0 mmol | ClC=1C=CC(=C(N)C1)C1=NN=NN1 | C7H6ClN5
reactant | 4-chlorobenzoyl chloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | 4-Chloro-N-(5-chloro-2-(1H-tetrazol-5-yl)phenyl)benzamide | 126.3 mg, 37% | ClC1=CC=C(C(=O)NC2=C(C=CC(=C2)Cl)C2=NN=NN2)C=C1 | C14H9Cl2N5O
